US04073798
A solution of 55.2 g (2.4 g atom) of sodium in 2.62 liters of methanol cooled to 25° C was added to 684 g (689.5 ml; 7.68 moles) of 2-nitropropane after which 360.4 g (2.4 moles) of piperonal were added. The solution was stirred at room temperature for 18 hours, cooled in an ice bath and acidified with 2.4 liters of 1N sulphuric acid. The resulting mixture was diluted with 5 liters of water, and an oil which precipitated was syphoned off and added to a rapidly stirred solution of 187.4 g (1.8 moles) of sodium bisulphate in 1.2 liters of water. The mixture was stirred for 15 minutes, after which the solid formed was separated and washed three times with ether. The organic layer was separated off, washed with brine, dried and concentrated to an oil which was crystallised from a mixture of 250 ml of toluene and 850 ml of hexane to give 1,1-dimethyl-2-hydroxy-2-(3,4-methylenedioxyphenyl)nitroethane m.p. 88°-91° (Yield 200.4 g). The mother liquor from the crystallisation was diluted with a further liter of hexane to give a further crop of the product, m.p. 88°-91° (49.9 g; total yield 250.3 g, 43.6%).

reactant | sodium | 55.2 g | [Na] | Na
reactant | 2-nitropropane | 7.68 moles, 689.5 ml, 684 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | piperonal | 2.4 moles, 360.4 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | sulphuric acid | 1N, 2.4 liters | S(O)(O)(=O)=O | H2O4S
reactant | sodium bisulphate | 1.8 moles, 187.4 g | S([O-])(O)(=O)=O.[Na+]
solvent | methanol | 2.62 liters | CO | CH4O
solvent | water | 5 liters | O | H2O
solvent | water | 1.2 liters | O | H2O
product | 1,1-dimethyl-2-hydroxy-2-(3,4-methylenedioxyphenyl)nitroethane | Yield 200.4 g | CC(C(C1=CC2=C(C=C1)OCO2)O)(C)[N+](=O)[O-] | C11H13NO5
